US09282744B2
65% Benziothiazolinone.Dithianon Water Dispersible Granule
2% benziothiazolinone, 63% dithianon, 5% sodium lignosulfonate, 7% sodium methyl naphthalene sulfonate-formaldehyde condensate, 3% sodium dodecyl sulfate, complemented to 100% with diatomite.

reactant | dithianon | C1=CC=C2C(=C1)C(=O)C1=C(C2=O)SC(=C(S1)C#N)C#N | C14H4N2O2S2
reactant | sodium methyl naphthalene sulfonate formaldehyde | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)OC.[Na].C=O
reactant | sodium dodecyl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
product | Dithianon Water | O.C1=CC=C2C(=C1)C(=O)C1=C(C2=O)SC(=C(S1)C#N)C#N | InChI=1S/C14H4N2O2S2.H2O/c15-5-9-10(6-16)20-14-12(18)8-4-2-1-3-7(8)11(17)13(14)19-9;/h1-4H;1H2
